US05728892
The method of claim 1 or 2, wherein α-hexylcinnamaldehyde is prepared via aldol condensation of benzaldehyde and n-octanal.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | n-octanal | C(CCCCCCC)=O | C8H16O
product | α-hexylcinnamaldehyde | C(CCCCC)C(C=O)=CC1=CC=CC=C1 | C15H20O
